US05864039
(3S)-1-((S)-1-Phenylethyl)-5-oxo-3-pyrrolidinecarboxylic acid (666 g, optical purity not less than 99%) was dissolved in methanol (6 l), and conc. sulfuric acid (15 ml) was added at room temperature. The mixture was stirred at refluxing temperature for 7 hr. Methanol was evaporated, and the residue was extracted with ethyl acetate. The organic layer was washed with sodium hydrogencarbonate, dried over magnesium sulfate and concentrated under reduced pressure to give 738 g of methyl (3S)-1-((S)-1-phenylethyl)-5-oxo-3-pyrrolidine-carboxylate.

reactant | (3S)-1-((S)-1-Phenylethyl)-5-oxo-3-pyrrolidinecarboxylic acid | 666 g | C1(=CC=CC=C1)[C@H](C)N1C[C@H](CC1=O)C(=O)O | C13H15NO3
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 6 l | CO | CH4O
product | methyl (3S)-1-((S)-1-phenylethyl)-5-oxo-3-pyrrolidine-carboxylate | 738 g | C1(=CC=CC=C1)[C@H](C)N1C[C@H](CC1=O)C(=O)OC | C14H17NO3
